US05380742
10.3 Ethyl 2-(1-chloro-5,6-dihydro-4H-thieno[3,4-c]pyrrol-5-yl)acetate.
A solution of 12.58 g (0.041 mol) of 2-chloro-3,4-bis(bromomethyl)thiophene in 40 ml of dimethylformamide is poured dropwise onto a mixture of 17.77 g of ethyl 2-aminoacetate hydrochloride, 45.5 g of finely powdered potassium carbonate and 80 ml of dimethylformamide, cooled to 5° C. The mixture is stirred at room temperature for 2 h, then poured onto 400 g of a water/ice mixture and stirred for a further 15 min. The mixture is extracted with 5 times 100 ml of diethyl ether, the ether phase is washed with twice 100 ml of salt solution, dried over magnesium sulphate and concentrated. 9.49 g of an oily product are obtained.

reactant | 2-chloro-3,4-bis(bromomethyl)thiophene | 0.041 mol, 12.58 g | ClC=1SC=C(C1CBr)CBr | C6H5Br2ClS
reactant | ethyl 2-aminoacetate hydrochloride | 17.77 g | Cl.NCC(=O)OCC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(1-chloro-5,6-dihydro-4H-thieno[3,4-c]pyrrol-5-yl)acetate | 9.49 g | ClC=1SC=C2C1CN(C2)CC(=O)OCC | C10H12ClNO2S
